US04968668
25 g of magnesium turnings and 155 g of 3,5-dimethylbenzyl chloride were reacted in 300 ml of ether. After dilution with 200 ml of tetrahydrofuran, a mixture of 92.5 g of chloroacetone and 100 ml of tetrahydrofuran was added dropwise with ice cooling in the course of one hour. After reacting for 2 hours at 25° C., the mixture was poured onto a mixture of ice and 2.5 mol hydrochloric acid. The upper layer was separated off and the aqueous layer was extracted with ether. The combined organic layers were washed with water until neutral, dried using Na2SO4, filtered and distilled. 110 g of 1-chloro-2-(3,5-dimethylbenzyl)-propan-2-ol were obtained at 110°-112° C./0.2 mbar. 109 g of this compound were stirred at 30° C. for 2 hours with 20 ml of methyl tert.-butyl ether and a solution of 31 g of NaOH in 750 ml of water. The layers were then separated, and the organic phase was washed with water until neutral, dried using Na2SO4 and distilled. 65 g of 2-(3,5-dimethylbenzyl)-propylene oxide were obtained at a boiling point of 68°-70° C./0.3 mbar. 80 g of this compound were dissolved in 100 ml of cyclohexane and put into a 0.5 l shaking autoclave with 0.8 g of 5% Pd on active carbon. After flushing with inert gas, the autoclave was pressuried with hydrogen (130 bar) and heated at 150° C. for 8 hours. The cooled mixture was depressurized, flushed with inert gas, the catalyst was filtered off and the filtrate was distilled through a 30-cm long column containing steel helices. 18 g of 2-methyl-3-(3,5-dimethylphenyl)-propan-1-ol passed over at 80°-81° C./0.07 mbar.

reactant | magnesium | 25 g | [Mg] | Mg
reactant | 3,5-dimethylbenzyl chloride | 155 g | CC=1C=C(CCl)C=C(C1)C | C9H11Cl
reactant | chloroacetone | 92.5 g | ClCC(C)=O | C3H5ClO
reactant | hydrochloric acid | 2.5 mol | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-chloro-2-(3,5-dimethylbenzyl)-propan-2-ol | 110 g | ClCC(C)(O)CC1=CC(=CC(=C1)C)C | C12H17ClO
